US07833963B2
Fraction CCS Inhibits Tyrosine Phosphorylation of p42 kda Phosphoprotein.
Reagents Phorbol 12-myristate 13-acetate (PMA) and calcium ionophore A23187 were purchased from Sigma. Bromelain (E.C 3.4.22.4; proteolytic activity, 1,541 nmol/min/mg) was obtained from Solvay Inc. (Germany). E-64 (L-transepoxysuccinylleucylamido-(4-guanidino)butane, a selective cysteine protease inhibitor, was from Sigma.

reactant | Phorbol 12-myristate 13-acetate | CCCCCCCCCCCCCC(=O)O[C@@H]1[C@H]([C@]2([C@@H](C=C(C[C@]3([C@H]2C=C(C3=O)C)O)CO)[C@H]4[C@@]1(C4(C)C)OC(=O)C)O)C | C36H56O8
reactant | calcium ionophore A23187 | C[C@@H]1CC[C@]2([C@@H](C[C@H]([C@H](O2)[C@H](C)C(=O)C3=CC=CN3)C)C)O[C@@H]1CC4=NC5=C(O4)C=CC(=C5C(=O)O)NC | C29H37N3O6
reactant | cysteine | N[C@@H](CS)C(=O)O | C3H7NO2S
product | Tyrosine | N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C9H11NO3
